US08283354B2
2-Methoxyethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride
To a solution of ((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (352 mg, 0.75 mmol) in CH2Cl2 (3 mL) was added dropwise a 2.0 M HCl solution in ether (0.375 mL, 0.75 mmol) under an N2 atmosphere. It was followed by the addition of 20 mL ether which lead to the precipitation of 2-methoxyethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride (350 mg, 92%) which was then filtered and dried. LC/MS: m/z 469.5 (M+H)+ at 2.29 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 7.97 (d, J=7.9 Hz, 1H), 7.63 (s, 1H), 7.45 (m, 3H), 6.89 (d, J=8.3 Hz, 1H), 6.82 (t, J=9.5 Hz, 1H), 4.54 (s, 1H), 4.03 (d, J=2.7 Hz, 2H), 3.47 (t, J=4.6 Hz, 4H), 3.24 (s, 3H), 2.99 (m, 2H), 2.54 (s, 3H), 1.89 (m, 3H), 1.70 (m, 1H), 1.38 (m, 1H)

reactant | ((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 0.75 mmol, 352 mg | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CCC1)CNC([O-])=O)C
reactant | HCl | 2.0 M | Cl | ClH
reactant | ether | 0.75 mmol, 0.375 mL | CCOCC | C4H10O
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-Methoxyethyl((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate hydrochloride | Cl.COCCN(C(O)=O)C[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1O)F | InChI=1S/C25H29FN4O4.ClH/c1-16-8-9-18-20(13-16)27-23(22-19(26)6-3-7-21(22)31)28-24(18)29-10-4-5-17(14-29)15-30(25(32)33)11-12-34-2;/h3,6-9,13,17,31H,4-5,10-12,14-15H2,1-2H3,(H,32,33);1H/t17-;/m0./s1
